US07132436B2
N-[4-(2-Chloro-6-fluorophenyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide
The title compound was prepared from 4-(2-chloro-6-fluorophenyl)-1,3-thiazol-2-amine (62 mg) and 4-n-propylbenzenesulfonyl chloride (59 mg) as descibed in the synthetic METHOD B to give a white solid (30.7 mg) with purity >90%: MS (pos) m/z 411.3, 413.3; MS (neg) m/z 409.5, 411.5.

reactant | 4-(2-chloro-6-fluorophenyl)-1,3-thiazol-2-amine | 62 mg | ClC1=C(C(=CC=C1)F)C=1N=C(SC1)N | C9H6ClFN2S
reactant | 4-n-propylbenzenesulfonyl chloride | 59 mg | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-[4-(2-Chloro-6-fluorophenyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide | ClC1=C(C(=CC=C1)F)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)CCC | C18H16ClFN2O2S2
